US06846814B2
Intermediate S1: Methyl 3-Cyano-2-{[(trifluoromethyl)sulfonyl]oxy}-1-naphthoate
To a solution of methyl 3-cyano-2-hydroxy-1-napthoate (3.1 g, 13.6 mmol) in dry methylene chloride (60 mL) at 0° C. was added triethylamine (2.14 mL, 15.4 mmol) followed by dropwise addition of trifluoromethylsulfonic anhydride. After stirring for an additional 30 min at 0° C. and 30 min at ambient temperature, the reaction mixture was diluted with methylene chloride (60 mL), washed with 0.5 N HCl (2×40 mL) and saturated NaHCO3 (2×40 mL), dried (MgSO4), filtered, and evaporated to dryness. The residue was purified by chromatography on silica gel in methylene chloride to give 3.7 g (75% yield) of the title compound.

reactant | methyl 3-cyano-2-hydroxy-1-napthoate | 13.6 mmol, 3.1 g | C(#N)C=1C(=C(C2=CC=CC=C2C1)C(=O)OC)O | C13H9NO3
reactant | triethylamine | 15.4 mmol, 2.14 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethylsulfonic anhydride | FC(F)(F)S(=O)(=O)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-Cyano-2-{[(trifluoromethyl)sulfonyl]oxy}-1-naphthoate | 3.7 g, 75% yield | C(#N)C=1C(=C(C2=CC=CC=C2C1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C14H8F3NO5S
